US05741785
2-Carboxy-1-methyl-7-trifluoromethylimidazo[1,2-a]quinoxalin-4(5H)-one
A suspension of 2-ethoxycarbonyl-1-methyl-7-trifluoromethylimidazo [1,2-a]quinoxalin-4(5H)-one (960 mg, 2.8 mmol) in 2M potassium hydroxide (30 ml) was stirred at 80° C. for 4 h. The reaction mixture was added water (25 ml) and pH adjusted to pH 7 with 1N hydrochloride acid. The precipitate was filtered off and washed with water. Recrystallization from glacial acetic acid afforded 650 mg (74%) of the title compound as the acetate. M.p. >250° C.

reactant | 2-ethoxycarbonyl-1-methyl-7-trifluoromethylimidazo [1,2-a]quinoxalin-4(5H)-one | 2.8 mmol, 960 mg | C(C)OC(=O)C=1N=C2N(C3=CC=C(C=C3NC2=O)C(F)(F)F)C1C | C15H12F3N3O3
reactant | water | 25 ml | O | H2O
reactant | hydrochloride | 1N | Cl | ClH
solvent | potassium hydroxide | 2M, 30 ml | [OH-].[K+]
product | 2-Carboxy-1-methyl-7-trifluoromethylimidazo[1,2-a]quinoxalin-4(5H)-one | 650 mg, 74% | C(=O)(O)C=1N=C2N(C3=CC=C(C=C3NC2=O)C(F)(F)F)C1C | C13H8F3N3O3
